US04143047
2-(N-Methyl-acetamido)-4-methyloxazole
N-Methyl-acetamide (1.02 g, 0.0140 m) in HMPA (10 ml) was stirred at 50° C. under nitrogen during the portionwise addition of 50% potassium hydride/oil dispersion (1.12 g, 0.0140 m). After the addition, the mixture was warmed to 100° C. and 2-n-hexylsulphinyl-4-methyloxazole (3.0 g, 0.0139 m) in HMPA (10 ml) was added and the mixture stirred at 100° C. for 5 hours. The mixture was then hydrolysed with water, solvent removed in vacuo and the product isolated by column chromatography on silica using ether. Recrystallisation from diethyl ether/hexane at -20° C. gave the title product as colourless needles, m.p. 27°-29° C.

reactant | N-Methyl-acetamide | 1.02 g | CNC(C)=O | C3H7NO
reactant | potassium hydride | [H-].[K+]
reactant | 2-n-hexylsulphinyl-4-methyloxazole | 3.0 g | C(CCCCC)S(=O)C=1OC=C(N1)C | C10H17NO2S
reactant | ether | CCOCC | C4H10O
solvent | HMPA | 10 ml | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
solvent | HMPA | 10 ml | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
product | 2-(N-Methyl-acetamido)-4-methyloxazole | CN(C(C)=O)C=1OC=C(N1)C | C7H10N2O2
